US05459138
EXAMPLE 36: 7-CHLORO-3-METHYL-4H-PYRIDO[2,3-e] [1,2,4]THIADIAZINE 1,1-DIOXIDE
A mixture of 1 g of 2-amino-5-chloropyridine-3- sulfonamide (Preparation 20) and 10 cm3 of acetic anhydride is brought to reflux for 6 hours. After cooling, the crystals are filtered off, washed with a small amount of acetic anhydride and then with diethyl ether and dried. The crystals are redissolved in 50 cm3 of 0.1N NaOH. The possible insoluble material is removed by filtration. The filtrate, adjusted to a pH of 4 using formic acid, allows crystals to precipitate. They are collected on a filter, washed with water and dried.

reactant | 2-amino-5-chloropyridine-3- sulfonamide | 1 g | NC1=NC=C(C=C1S(=O)(=O)N)Cl | C5H6ClN3O2S
reactant | acetic anhydride | 10 cm3 | C(C)(=O)OC(C)=O | C4H6O3
product | 7-CHLORO-3-METHYL-4H-PYRIDO[2,3-e] [1,2,4]THIADIAZINE 1,1-DIOXIDE | ClC1=CC2=C(NC(=NS2(=O)=O)C)N=C1 | C7H6ClN3O2S
